US06051712
In an analogous manner to that described in Example 1 (g), by alkylating (3RS,4RS)-1-benzyl-4-(3-benzyloxy-phenyl)-piperidin-3-ol with 2-bromomethylnaphthalene there was obtained (3RS,4RS)-1-benzyl-4-(3-benzyloxy-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine as a colourless resin; MS: 514 (M+H)+.

reactant | (3RS,4RS)-1-benzyl-4-(3-benzyloxy-phenyl)-piperidin-3-ol | C(C1=CC=CC=C1)N1CC(C(CC1)C1=CC(=CC=C1)OCC1=CC=CC=C1)O | C25H27NO2
reactant | 2-bromomethylnaphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
product | (3RS,4RS)-1-benzyl-4-(3-benzyloxy-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine | C(C1=CC=CC=C1)N1CC(C(CC1)C1=CC(=CC=C1)OCC1=CC=CC=C1)OCC1=CC2=CC=CC=C2C=C1 | C36H35NO2
